US07612114B2
6-{2-[2-(4-Hydroxyphenyl)ethylamino]benzyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl trifluoromethanesulfonate (1.6 g) and 2-(4-methoxyphenyl)ethylamine (0.9 g) according to an analogous synthetic method to Example 116,to the total amount of [2-(4-methoxyphenyl)ethyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl]amine (crude product) was added 48% hydrobromic acid (30 ml), and the solution was refluxed overnight. To the reaction solution was added concentrated aqueous ammonia, the solution was extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (1.1 g).

reactant | 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl trifluoromethanesulfonate | 1.6 g | FC(S(=O)(=O)OC1=C(C=CC=C1)CC1CC2=CC=C(C=C2CC1)OC)(F)F | C19H19F3O4S
reactant | 2-(4-methoxyphenyl)ethylamine | 0.9 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | [2-(4-methoxyphenyl)ethyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl]amine | COC1=CC=C(C=C1)CCNC1=C(C=CC=C1)CC1CC2=CC=C(C=C2CC1)OC | C27H31NO2
reactant | ammonia | N | H3N
solvent | hydrobromic acid | 30 ml | Br | BrH
product | 6-{2-[2-(4-Hydroxyphenyl)ethylamino]benzyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 1.1 g | OC1=CC=C(C=C1)CCNC1=C(CC2CC=3C=CC(=CC3CC2)O)C=CC=C1 | C25H27NO2
